US04939172
STEP A: 2,3,5,6-Tetrafluoro-4-[[(tetrahydropyran-2-yl)oxy]methyl]-benzaldehyde.
13 g of 2-[(2,3,5,6-tetrafluorophenyl)-methoxy]-tetra hydropyran in 200 ml of tetrahydrofuran were cooled to -60 C. and 35.1 ml of butyllithium (1,6M) in hexane were added dropwise over the course of 30 minutes. The mixture was stirred for 1 hour at -55° C. and 5 ml of dimethylformamide dissolved in 10 ml of tetrahydrofuran were added over the course of 5 minutes. The mixture was stirred for 1/2hours at this temperature and 50 ml of a saturated aqueous sodium chloride solution were added. Extraction was carried out with isopropyl ether and the extract was dried and the solvents removed under reduced pressure to obtain 14.4 g of the expected product which was used as is in the following step.

reactant | 2-[(2,3,5,6-tetrafluorophenyl)-methoxy]-tetra hydropyran | 13 g | FC1=C(C(=C(C=C1F)F)F)COC1OCCCC1 | C12H12F4O2
reactant | butyllithium | 1,6M, 35.1 ml | C(CCC)[Li]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2,3,5,6-Tetrafluoro-4-[[(tetrahydropyran-2-yl)oxy]methyl]-benzaldehyde | 14.4 g | FC1=C(C=O)C(=C(C(=C1F)COC1OCCCC1)F)F | C13H12F4O3
